US09422281B2
A 200-mL round bottomed flask equipped with a magnetic stir bar was charged with 1-fluoro-2-nitrobenzene (8.25 g, 58.5 mmol), DMSO (29 mL), potassium carbonate (8.89 g, 64.3 mmol), and (S)-2-aminopropane-1-ol (4.83 g, 64.3 mmol). The mixture was heated to 60° C. for 6 h and then cooled to room temperature. The reaction mixture was diluted with water (60 mL). The mixture was stirred for several minutes, then extracted with ethyl acetate (ca. 200-250 mL). The ethyl acetate extract was washed thrice with 5 wt % aqueous sodium chloride (3×50 mL) and concentrated under reduced pressure to afford crude (S)-2-(2-nitrophenylamino)propane-1-ol (12.0 g, 105%) as a bright orange syrup. MS (ESI, pos. ion) m/z 197 [M+1]+.

reactant | 1-fluoro-2-nitrobenzene | 58.5 mmol, 8.25 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | DMSO | 29 mL | CS(=O)C | C2H6OS
reactant | potassium carbonate | 64.3 mmol, 8.89 g | C([O-])([O-])=O.[K+].[K+]
reactant | (S)-2-aminopropane-1-ol | 64.3 mmol, 4.83 g | N[C@H](CO)C | C3H9NO
solvent | water | 60 mL | O | H2O
product | (S)-2-(2-nitrophenylamino)propane-1-ol | 12.0 g, 105% | [N+](=O)([O-])C1=C(C=CC=C1)N[C@H](CO)C | C9H12N2O3
